US08389524B2
(2S)-2-({4-[([1,3]Oxathiolo[5,4-c]pyridin-6-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione hydrochloride
(2S)-2-[(4-Amino-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione (for a preparation see Example 16A(j) (100 mg, 0.332 mmol) was stirred with [1,3]oxathiolo[5,4-c]pyridine-6-carbaldehyde (for a synthesis see WO2004058144 Example 61) (45 mg, 0.811 eq.) in chloroform:methanol (9:1, v:v, 5 ml) at room temperature for 2 hours; the mixture was then treated with sodium triacetoxyborohydride (211 mg, 3.0 eq.) with vigorous stirring at room temperature for 30 mins. The mixture was quenched by addition of saturated aqueous sodium hydrogen carbonate (1 ml). DCM (10 ml) was added and vigorous stirring was continued for 10 mins, followed by separation of the phases (hydrophobic frit). The organic phase was evaporated under reduced pressure and the crude product was purified by column chromatography on silica (2M NH3 in MeOH) in DCM. Appropriate fractions were combined and evaporated under reduced pressure and dried on the vacuum line over the weekend to give the free base of the title compound as a pale yellow foam (91 mg, 61%).

reactant | (2S)-2-[(4-Amino-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione | NC1CCN(CC1)C[C@H]1CN2C(C=CC=3N=CC(N1C23)=O)=O | C15H19N5O2
reactant | [1,3]oxathiolo[5,4-c]pyridine-6-carbaldehyde | S1COC=2C=NC(=CC21)C=O | C7H5NO2S
reactant | sodium triacetoxyborohydride | 211 mg, 3.0 eq. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | chloroform methanol | 5 ml | C(Cl)(Cl)Cl.CO
product | (2S)-2-({4-[([1,3]Oxathiolo[5,4-c]pyridin-6-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione hydrochloride | 91 mg, 61% | Cl.S1COC=2C=NC(=CC21)CNC2CCN(CC2)C[C@H]2CN1C(C=CC=3N=CC(N2C13)=O)=O | InChI=1S/C22H24N6O3S.ClH/c29-20-2-1-17-22-27(20)12-16(28(22)21(30)10-25-17)11-26-5-3-14(4-6-26)23-8-15-7-19-18(9-24-15)31-13-32-19;/h1-2,7,9-10,14,16,23H,3-6,8,11-13H2;1H/t16-;/m0./s1
